************************************************************************
* auCdl Netlist:
* 
* Library Name:  ELEC402
* Top Cell Name: A4Q1_NAND3_circuit
* View Name:     schematic
* Netlisted on:  Nov 17 11:01:49 2022
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: ELEC402
* Cell Name:    A4Q1_NAND3_circuit
* View Name:    schematic
************************************************************************

.SUBCKT A4Q1_NAND3_circuit A B C GND VDD Y
*.PININFO A:I B:I C:I Y:O GND:B VDD:B
MM2 Y C VDD net1 PFET m=2
MM1 Y B VDD net1 PFET m=2
MM0 Y A VDD net1 PFET m=2
MM5 net4 A GND net2 NFET m=2
MM4 net3 B net4 net2 NFET m=2
MM3 Y C net3 net2 NFET m=2
.ENDS

